US07012075B2
To a 0° C. solution of 2-(5,5-dimethyl-2-oxo4-phenyl-2,5-dihydro-3-furanyl)-1H-isoindole-1,3(2H)-dione (0.90 g, 2.7 mmol) in THF (40 mL) and MeOH (30 mL) was added hydrazine hydrate (1 mL). The mixture was stirred overnight then diluted with EtOAc and washed with saturated NH4Cl. The organic phase was concentrated, then dissolved in dichloromethane, washed with brine, filtered through cotton and concentrated. This material was combined with the 0.29 g from the previous step and purified by flash chromatography (25% EtOAc/hexanes) to provide 3-amino-5,5-dimethyl-4-phenyl-2(5H)-furanone.

reactant | 2-(5,5-dimethyl-2-oxo4-phenyl-2,5-dihydro-3-furanyl)-1H-isoindole-1,3(2H)-dione | 2.7 mmol, 0.90 g | CC1(C(=C(C(O1)=O)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1)C | C20H15NO4
reactant | hydrazine hydrate | 1 mL | O.NN
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-amino-5,5-dimethyl-4-phenyl-2(5H)-furanone | NC=1C(OC(C1C1=CC=CC=C1)(C)C)=O | C12H13NO2
